* Common-source amplifier with diode-connected load
Vdd vdd 0 DC 5
Vin in 0 DC 1.5 AC 1
M1 out in 0 0 NMOS
M2 out out vdd vdd PMOS
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.model PMOS PMOS LEVEL=1 VTO=-1 KP=0.5m
.op
.ac dec 100 10 10Meg
.end
