* Common-source amplifier with resistive load
Vdd vdd 0 DC 5
Vin in 0 DC 1.5 AC 1 SIN(1.5 10m 1k)
Rd vdd out 10k
M1 out in 0 0 NMOS
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.op
.ac dec 100 10 10Meg
.tran 1u 5m
.end
