* NMOS inverter with resistive load
Vdd vdd 0 DC 5
Vin in 0 PULSE(0 5 0 1u 1u 1m 2m)
Rd vdd out 10k
M1 out in 0 0 NMOS
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.op
.tran 1u 5m
.end
