* Non-inverting Schmitt trigger
Vin in 0 PULSE(0 5 0 1u 1u 1m 2m)
R1 out nplus 100k
R2 nplus 0 100k
Eop out 0 in nplus 1e6
Rload out 0 10k
.tran 1u 5m
.end
