* Op-amp with active current mirror loads
Vdd vdd 0 DC 5
Vin_p inp 0 AC 0.5
Vin_n inn 0 AC -0.5
M1 n1 inp tail 0 NMOS
M2 out inn tail 0 NMOS
M3 n1 n1 vdd vdd PMOS
M4 out n1 vdd vdd PMOS
Itail tail 0 DC 200u
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.model PMOS PMOS LEVEL=1 VTO=-1 KP=0.5m
.op
.ac dec 100 10 100Meg
.end
