* Op-amp adder
V1 in1 0 SIN(0 0.5 1k)
V2 in2 0 SIN(0 0.5 2k)
R1 in1 nminus 10k
R2 in2 nminus 10k
Rf out nminus 10k
Eop out 0 0 nminus 1e5
Rbias nminus 0 1Meg
.tran 10u 5m
.ac dec 100 10 100k
.end
