* Op-amp differentiator
Vin in 0 PULSE(0 1 0 1u 1u 1m 2m)
Cin in nminus 100n
Rf out nminus 10k
Eop out 0 0 nminus 1e5
Rbias nminus 0 1Meg
.tran 1u 5m
.end
