* Op-amp subtractor
V1 in1 0 SIN(0 0.5 1k)
V2 in2 0 SIN(0 0.5 2k)
R1 in1 nminus 10k
R2 out nminus 10k
R3 in2 nplus 10k
R4 nplus 0 10k
Eop out 0 nplus nminus 1e5
.tran 10u 5m
.ac dec 100 10 100k
.end
