* RC shift oscillator approximation
Bosc out 0 V = sin(2*3.14159*1k*time)
R1 out n1 10k
C1 n1 0 10n
R2 n1 n2 10k
C2 n2 0 10n
R3 n2 n3 10k
C3 n3 0 10n
Rload out 0 100k
.tran 10u 20m
.end
