* Three-stage common-source resistive-load amplifier
Vdd vdd 0 DC 5
Vin in 0 DC 1.5 AC 1 SIN(1.5 5m 1k)
M1 n1 in 0 0 NMOS
R1 vdd n1 20k
M2 n2 n1 0 0 NMOS
R2 vdd n2 20k
M3 out n2 0 0 NMOS
R3 vdd out 20k
.model NMOS NMOS LEVEL=1 VTO=1 KP=0.8m
.op
.ac dec 100 10 10Meg
.tran 1u 5m
.end
