* Canonical DUT generated from benchmark/analogcoder_pro/p13_bandstop.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p13: a passive band-stop filter
* Source: analogcoder\AnalogCoderPro-master\sample_design\p13\p13.py
* AnalogCoder-Pro type: BandStop
* Inputs: Vin
* Outputs: Vout
* original signal source: Vin Vin 0 1
Vin Vin 0 0
R1 Vin Vout 1k
L1 Vout N1 10m
C1 N1 0 1
* original analysis: .AC DEC 100 1 1G
.END
