* Canonical DUT generated from benchmark/analogcoder_pro/p10_lowpass.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p10: a passive low-pass filter
* Source: analogcoder\AnalogCoderPro-master\sample_design\p10\p10.py
* AnalogCoder-Pro type: LowPass
* Inputs: Vin
* Outputs: Vout
* original signal source: Vin Vin 0 1
Vin Vin 0 0
R1 Vin Vout 1G
C1 Vout 0 10n
* original analysis: .AC DEC 100 1 1G
.END
