* Band-Pass RLC Filter - CORRECTED
L1 in mid 1m
C1 mid out 1n
R1 out 0 1k
Vin in 0 AC 1

.ac dec 100 10 10e6

.meas ac gain_max max vdb(out)
.meas ac center_frequency_hz find freq when vdb(out)=gain_max

.control
run
print gain_max
print center_frequency_hz
.endc
.end
