* Band-Pass RLC Filter - SIMPLE
L1 in mid 1m
C1 mid out 1n
R1 out 0 1k
Vin in 0 AC 1

.ac dec 100 10 10e6

* Mesure directe de la fréquence centrale
.meas ac center_freq when vdb(out)=-3 rising=2

.control
run
print center_freq
.endc
.end
