* Spec2Testbench deterministic deck
* TestBench: acp28-p06_llm_compiled
* AnalogCoder-Pro p6: A NMOS inverter with resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p6\p6.py
* AnalogCoder-Pro type: Inverter
* Inputs: Vin
* Outputs: Vout

.MODEL nmos NMOS (LEVEL=1 KP=0.0002 VTO=0.7)

Vdd Vdd 0 5
Vin Vin 0 DC 0.0
Rload Vdd Vout 100k
M1 Vout Vin 0 0 nmos
.TEMP 25.0
.control
set wr_singlescale
DC Vin 0.0 5.0 0.01
wrdata /home/marex/S2T_REBUILT/Spec2Testbench/results/final_recovery/R2/F2_p06_contract/attempt_1/simulation/vectors.dat v(Vout) i(Vin) i(Vdd)
quit
.endc
.end
