* Spec2Testbench deterministic deck
* TestBench: acp28-p10_llm_compiled
* AnalogCoder-Pro p10: a passive low-pass filter
* Source: analogcoder\AnalogCoderPro-master\sample_design\p10\p10.py
* AnalogCoder-Pro type: LowPass
* Inputs: Vin
* Outputs: Vout
Vin Vin 0 DC 2.5 AC 1.0 0
R1 Vin Vout 10k
C1 Vout 0 10n
.TEMP 25.0
.control
set wr_singlescale
AC DEC 100 1.0 1000000000.0
wrdata /home/marex/S2T_REBUILT/Spec2Testbench/results/final_recovery/R2/F4_p10_spice/attempt_1/simulation/vectors.dat v(Vin) v(Vout)
quit
.endc
.end
